*MOS_Characterization

.include ../../TSMC_180nm.txt

VGS G gnd 1.8V
VDS D gnd 1V

*M1 DRAIN GATE SOURCE BODY NMOS/PMOS W L
M1 D G gnd gnd CMOSN W=1.8u L=0.18u

.dc VGS 0 1.8 0.005

.control
run
plot -VDS#branch
.endc
